US04608384
1 mole of 2-acetamido-3-cyano-5-ethoxycarbonyl-4-methylthiophene (prepared according to the method described by Gewald K. et al., Chem. Ber. (1966), 99, p. 94 and 2712, from ethyl acetate) is brought to reflux for 24 hours in 1.6 l of acetone with 187 g of ethyl bromoacetate and 250 g of potassium carbonate. Subsequently, the mixture is precipitated in 6 liters of an ice-water mixture (1:1). The whole is vigorously stirred, the resulting precipitate is filtered, dried with air, washed with 500 ml of an iced mixture of water and ethanol (60:40), dried again, and finally washed with 700 ml of a mixture of cyclohexane and benzene (6:1). The resulting product (320 g-0.95 mole) is then stirred in 1.2 liters of H2SO4 at 30% maintained at a temperature of less than 10° C., in a current of nitrogen. 85 g of potassium nitrite in 180 ml of water are progressively added whilst maintaining the temperature. When the addition is complete, stirring is continued for a few minutes, then 7.2 liters of an ice-water mixture are added. The whole is stirred vigorously. The yellow precipitate obtained is briefly suction-filtered and rinsed with water until almost neutral. It is then brought to reflux in 3 liters of ethanol until the evolution of nitrogen is complete. Subsequently, the reaction mixture is concentrated to 1 liter by distillation, 300 ml of water are added and the whole is stirred vigorously. Once crystallisation is complete, the precipitate is filtered and dried. In this manner 205 g (0.73 mole) of 2,5-diethoxycarbonyl 3-methyl-thieno[2,3-b]pyrrole are obtained, m.p.: 139° C. The following was prepared in the same manner:

reactant | 2-acetamido-3-cyano-5-ethoxycarbonyl-4-methylthiophene | 1 mole | C(C)(=O)NC=1SC(=C(C1C#N)C)C(=O)OCC | C11H12N2O3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ethyl bromoacetate | 187 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 250 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1.6 l | CC(=O)C | C3H6O
product | 2,5-diethoxycarbonyl 3-methyl-thieno[2,3-b]pyrrole | 0.73 mole, 205 g | C(C)OC(=O)C1=C(C2=C(NC(=C2)C(=O)OCC)S1)C | C13H15NO4S
